US05081117
2-Bromo-N-(3-methoxyphenyl)-N-methyl-propanamide
A solution of N-methyl-m-anisidine (265 g), triethylamine (269 ml) and toluene (550 ml) was stirred at 0° C. as 2-bromopropionyl bromide (202.6 ml) was added dropwise. The mixture was mechanically stirred overnight at room temperature. Water was added to the reaction and the aqueous layer was collected and extracted with ethyl acetate. All organic phases were combined, washed with 2N HCl, and dried (Na2SO4). The solvent was evaporated to yield an oil which was purified using Kugelrohr distillation. The distillate was dissolved in isopropyl ether. The solid product, 2-Bromo-N-(3-methoxyphenyl)-N-methyl-propanamide, m.p. 55°-56° C., crystallized from this solution.

reactant | N-methyl-m-anisidine | 265 g | CNC=1C=C(OC)C=CC1 | C8H11NO
reactant | triethylamine | 269 ml | C(C)N(CC)CC | C6H15N
reactant | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-bromopropionyl bromide | 202.6 ml | BrC(C(=O)Br)C | C3H4Br2O
solvent | Water | O | H2O
product | 2-Bromo-N-(3-methoxyphenyl)-N-methyl-propanamide | BrC(C(=O)N(C)C1=CC(=CC=C1)OC)C | C11H14BrNO2
